US04816454
6-(4-(3-tert.-Butoxycarbonyl-thiazolidin-2-yl-carbonyl-amino)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
7.5 g (0.032 mole) of 3-tert.-butoxycarbonyl-thiazolidine-2-carboxylic acid and 5.2 g (0.032 mole) of N,N'-carbonyl-diimidazole are heated under reflux in 50 ml of tetrahydrofuran for 15 minutes. After addition of 6.1 g (0.03 mole) of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone, the mixture is stirred at room temperature for 18 hours and concentrated and the residue is crystallised with ethyl acetate.

reactant | 3-tert.-butoxycarbonyl-thiazolidine-2-carboxylic acid | 0.032 mole, 7.5 g | C(C)(C)(C)OC(=O)N1C(SCC1)C(=O)O | C9H15NO4S
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.03 mole, 6.1 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-(4-(3-tert.-Butoxycarbonyl-thiazolidin-2-yl-carbonyl-amino)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)OC(=O)N1C(SCC1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C20H26N4O4S
